US07714009B2
N2-Mesityl-N7,N7-dipropyl[1,3]thiazolo[4,5-b]pyridine-2,7-diamine
To 0.040 g (0.11 mmol) of 1-[4-(Dipropylamino)pyridin-2-yl]-3-mesitylthiourea in 2 mL of glacial acetic acid was added 6.1 μL (0.12 mmol) of bromine. After 30 min at room temperature, an additional 2 μL of bromine was added. The reaction mixture was concentrated after 2 h and washed with ethyl acetate/hexanes. The organics were concentrated and the resulting oil was purified by flash chromatography eluting with a 4% methanol/dichloromethane mixture to give 0.020 g (50%) of the title compound as a light yellow powder.

reactant | 1-[4-(Dipropylamino)pyridin-2-yl]-3-mesitylthiourea | 0.11 mmol, 0.040 g | C(CC)N(C1=CC(=NC=C1)NC(=S)NC1=C(C=C(C=C1C)C)C)CCC | C21H30N4S
reactant | bromine | 0.12 mmol, 6.1 μL | BrBr | Br2
reactant | bromine | 2 μL | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | N2-Mesityl-N7,N7-dipropyl[1,3]thiazolo[4,5-b]pyridine-2,7-diamine | 0.020 g, 50% | C1(=C(C(=CC(=C1)C)C)NC=1SC=2C(=NC=CC2N(CCC)CCC)N1)C | C21H28N4S
